US04931455
Synthesis of dl-5-chloro-6-ethyl-4-[1-ethyl-7-(imidazol-1-ylcarbonyloxy)heptyl]aminopyrimidine (Compound No. 98)
In 20 ml of toluene was dissolved 1.00 g of dl-5-chloro-6-ethyl-4-[1-ethyl-7-(chlorocarbonyloxy)heptyl]aminopyrimidine, and 0.50 g of triethylamine and 0.22 g of imidazole were added to the solution and the mixture was stirred at room temperature for one hour. After completion of the reaction, the reaction mixture was filtered, and excessive triethylamine and the solvent was removed under reduced pressure. The resulting oily product was isolated through a column chromatography (Wako gel C-200, trade name, eluent; toluene:ethyl acetate=3:1) to give 0.80 g of the title compound as pale yellow oily product. nD21.9 1.5332.

reactant | dl-5 chloro-6-ethyl-4-[1-ethyl-7-(chlorocarbonyloxy)heptyl]aminopyrimidine | 1.00 g | COC1=C(C=CC(=C1)CNCCCNCCCCNCCCN)O.ClC1=NC(=CC(=N1)NC(CCCCCCOC(=O)Cl)CC)CC
reactant | triethylamine | 0.50 g | C(C)N(CC)CC | C6H15N
reactant | imidazole | 0.22 g | N1C=NC=C1 | C3H4N2
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | dl-5 chloro-6-ethyl-4-[1-ethyl-7-(imidazol-1-ylcarbonyloxy)heptyl]aminopyrimidine | 0.80 g | COC1=C(C=CC(=C1)CNCCCNCCCCNCCCN)O.ClC1=NC(=CC(=N1)NC(CCCCCCOC(=O)N1C=NC=C1)CC)CC | InChI=1S/C19H28ClN5O2.C18H34N4O2/c1-3-15(22-17-13-16(4-2)23-18(20)24-17)9-7-5-6-8-12-27-19(26)25-11-10-21-14-25;1-24-18-14-16(6-7-17(18)23)15-22-13-5-12-21-10-3-2-9-20-11-4-8-19/h10-11,13-15H,3-9,12H2,1-2H3,(H,22,23,24);6-7,14,20-23H,2-5,8-13,15,19H2,1H3
